US06689922B1
4-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]vinyl}benzene-1,2-diol
In a manner similar to Example 25(d), by reacting 0.118 ml of concentrated sulphuric acid with 1.38 g (2.11 mmol) of 2-[6-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxy)phenyl]vinyl}phenyl)-1,1-dimethylhexyloxy]tetrahydropyran in 20 ml of THF and 10 ml of water, after purification on a silica column (ethyl acetate 45-heptane 55), a solid having a cottony appearance (m=522 mg; Y=77%) is obtained.

reactant | sulphuric acid | 0.118 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-[6-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxy)phenyl]vinyl}phenyl)-1,1-dimethylhexyloxy]tetrahydropyran | 2.11 mmol, 1.38 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1O[Si](C)(C)C(C)(C)C)C=CC=1C=C(C=CC1)CCCCCC(OC1OCCCC1)(C)C | C39H64O4Si2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]vinyl}benzene-1,2-diol | OC(CCCCCC=1C=C(C=CC1)C=CC=1C=C(C(=CC1)O)O)(C)C | C22H28O3
